US04066456
a. Preparation of 2-carboxy-4-nitro-N-methyl-N-tetradecylaniline
A mixture of 600g 2-chloro-5-nitrobenzoic acid, 900g methyltetradecylamine (84%, tertiary amines as impurities) and 500 ml triethylamine was heated on a steam bath for 7 hours and then poured into 2 liters of water and made acid with HCl. The reaction product was filtered, air dried and then recrystallized from methanol and then from petroleum ether. Yield: 820g, m.p. = 100°-101°.

reactant | 2-chloro-5-nitrobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | methyltetradecylamine | CNCCCCCCCCCCCCCC | C15H33N
reactant | triethylamine | 500 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | water | 2 liters | O | H2O
product | 2-carboxy-4-nitro-N-methyl-N-tetradecylaniline | C(=O)(O)C1=C(N(CCCCCCCCCCCCCC)C)C=CC(=C1)[N+](=O)[O-] | C22H36N2O4
